US05998433
d) Synthesis of N-tert-butoxycarbonyl-2-(3-thienyl)ethylamine
A solution of 2.086 g (8.107 mmol) of N-[2-(3-thienyl)ethyl]phthalimide and 0.59 ml (12.2 mmol) of hydrazine monohydrate in 200 ml of ethanol was refluxed for 1 hour. After cooling to room temperature, the reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude 2-(3-thienyl)ethylamine was dissolved in 50 ml of dichloromethane; a solution of 2.30 g (10.5 mmol) of di-tert-butyl dicarbonate in 10 ml of dichloromethane was added dropwise at room temperature, followed by stirring for 0.5 hours. The solvent was distilled off under reduced pressure, the resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=15/1 to 6/1) to yield the desired product.

reactant | N-[2-(3-thienyl)ethyl]phthalimide | 8.107 mmol, 2.086 g | S1C=C(C=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C14H11NO2S
reactant | hydrazine monohydrate | 12.2 mmol, 0.59 ml | O.NN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 10.5 mmol, 2.30 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-tert-butoxycarbonyl-2-(3-thienyl)ethylamine | C(C)(C)(C)OC(=O)NCCC1=CSC=C1 | C11H17NO2S
